US05009699
Preparation of 1-{[o-(cyclopropylcarbonyl)phenyl]sulfamoyl}-3-(4,6-dimethoxy-2-pyrimidinyl)urea
A solution of 1.78 g (0.0114 mole) of 2-amino-4,6-dimethoxypyrimidine in 50 mL of methylene chloride is cooled to 0.5° C. in an ice bath and 1.0 mL (1.62 g, 0.114 mole) of chlorosulfonyl isocyanate then added to the solution. The resulting mixture is stirred for 30 minutes and a solution of 2.66 g o-aminophenyl cyclopropyl ketone (70% real, 0.0114) and 2.6 mL triethylamine (0.0187 mole) in 50 mL of methylene chloride then slowly added to the mixture. The resulting solution is stirred at ambient temperature overnight (18 hours).

reactant | 2-amino-4,6-dimethoxypyrimidine | 0.0114 mole, 1.78 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | chlorosulfonyl isocyanate | 0.114 mole, 1.0 mL, 1.62 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | o-aminophenyl cyclopropyl ketone | 2.66 g | C1(CC1)C(=O)C1=C(C=CC=C1)N | C10H11NO
reactant | triethylamine | 0.0187 mole, 2.6 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-{[o-(cyclopropylcarbonyl)phenyl]sulfamoyl}-3-(4,6-dimethoxy-2-pyrimidinyl)urea | C1(CC1)C(=O)C1=C(C=CC=C1)NS(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C17H19N5O6S
